US05030736
5,6-Dihydro-6-hydroxy-5,5-dimethyl-2-nitro-7-(4-nitrobenzamido)-7H-thieno[3,2-b]pyran
5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(4-nitrobenzamido)-7H-thieno[3,2-b]pyran (1.5 g, 4.30 mmol) was treated with 90% nitric acid (2.5 mL, 53.5 mmol) in acetic acid (25 mL) and stirred at 15°-20° C. for 0.5 h. The resultant solution was poured into ice water 100 mL and extracted with 10% isopropanol in dichloromethane. The dichloromethane solution was washed with saturated aqueous sodium bicarbonate and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by medium pressure chromatography using 2% methanol in dichloromethane as the eluant, to give the product, 0.489 g (29%), as a yellow solid: mp 221°-225° C. dec; IR (KBr): 3345, 1647 and 1602 cm-1 ; MS: m/z 394 (MH+); 1H NMR (DMSO-d6): δ1.26(s, 3H), 1.45(s, 3H), 3.90(dd, J=8.8 Hz and J=5.9 Hz, 1H, simplifies to d, J=8.8 Hz with D2O), 4.98(dd, J=7.6 Hz and J=8.8 Hz, 1H, simplifies to d, J=8.8 Hz with D2O), 6.01(d, J=5.9 Hz, 1H exchanges with D2O), 7.75(s, 1H), 8.14(d, J=8.8 Hz, 2H) 8.37(d, J=8.8 Hz, 2H) and 9.38(d, J=7.6 Hz, 1H, exchanges with D2O).

reactant | 5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(4-nitrobenzamido)-7H-thieno[3,2-b]pyran | 4.30 mmol, 1.5 g | OC1C(C2=C(OC1(C)C)C=CS2)NC(C2=CC=C(C=C2)[N+](=O)[O-])=O | C16H16N2O5S
reactant | nitric acid | 53.5 mmol, 2.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | KBr | [K+].[Br-]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 5,6-Dihydro-6-hydroxy-5,5-dimethyl-2-nitro-7-(4-nitrobenzamido)-7H-thieno[3,2-b]pyran | OC1C(C2=C(OC1(C)C)C=C(S2)[N+](=O)[O-])NC(C2=CC=C(C=C2)[N+](=O)[O-])=O | C16H15N3O7S
